* Common-mode AC Bode — ngspice macromodel (ACM path).
*
* Stimulus: inp tied to inn; both carry common-mode AC (differential AC = 0).
* Target: ACM(s) = Aol(s) / CMRR_LINEAR with same fp2/fz shaping as diff path.
*
*   ACM_gain = A0_LINEAR / CMRR_LINEAR
*   H(s) = ACM_gain / (1 + s/wp) / (1 + s/wp2) * (1 + s/wz)

.param a0_db=80
.param gbw_hz=10Meg
.param fp2_hz=0
.param fz_hz=0
.param cmrr_db=90
.param rin_ohm=1e12
.param rout_ohm=100
.param a0_linear=PLACEHOLDER_A0
.param cmrr_linear=PLACEHOLDER_CMRR
.param acm_gain=PLACEHOLDER_ACM
.param wp_rad_s=PLACEHOLDER_WP
.param rlp_ohm=PLACEHOLDER_RLP
.param clp_f=PLACEHOLDER_CLP

VDD vdd 0 DC 1.8
VSS vss 0 DC 0
VCM inn 0 DC 0.9 AC 1
Elink inp inn inn 0 1
Rinn inn 0 {rin_ohm}
Rinp inp 0 {rin_ohm}

Eaux n1 0 inp 0 {acm_gain}
Rlp n1 n2 {rlp_ohm}
Clp n2 0 {clp_f}
PLACEHOLDER_FP2_BLOCK
PLACEHOLDER_FZ_BLOCK
Eout out 0 PLACEHOLDER_OUT_NODE 0 1
ROUT out 0 {rout_ohm}

.ac dec 10 1 100Meg
.control
run
set wr_singlescale
wrdata ac_cm.raw frequency vdb(out) vp(out)
.endc

.end
